US09359359B2
To a solution of 3-(7-(4-chlorobenzyl)-3-methyl-2,6-dioxo-8-(3-(trifluoromethoxy)phenoxy)-2,3,6,7-tetrahydro-1H-purin-1-yl)cyclobutanecarboxylate (59 mg, 0.09 mmol) in THF (3 mL) was added LAH (6.8 mg, 0.18 mmol) in one portion and the mixture was stirred at room temperature for 2 h. The reaction was carefully quenched with ethyl acetate and filtered. The filtrate was concentrated to dryness to give a crude product which was purified via preparative HPLC to give 7-(4-chlorobenzyl)-1-(3-(hydroxymethyl)cyclobutyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (17 mg, 34.3% yield) as white solid.

reactant | 3-(7-(4-chlorobenzyl)-3-methyl-2,6-dioxo-8-(3-(trifluoromethoxy)phenoxy)-2,3,6,7-tetrahydro-1H-purin-1-yl)cyclobutanecarboxylate | 0.09 mmol, 59 mg | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)C2CC(C2)C(=O)[O-])=O)C)OC2=CC(=CC=C2)OC(F)(F)F)C=C1
reactant | LAH | 0.18 mmol, 6.8 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 7-(4-chlorobenzyl)-1-(3-(hydroxymethyl)cyclobutyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 17 mg, 34.3% yield | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)C2CC(C2)CO)=O)C)OC2=CC(=CC=C2)OC(F)(F)F)C=C1 | C25H22ClF3N4O5
